US04888045
6-Fluoro-3-(1-methylethyl)-2(3H)-benzothiazolon5-ylhydrazine (1.11 g) and 4-(3-hydroxyimino-1-cyclohexen2-yl)morpholine (0.90 g) were dissolved in ethanol (20 ml), a catalytic amount of acetic acid was added thereto, and the resultant mixture was heated under reflux for 3 hours. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The extract was distilled under reduced pressure to remove the solvent and combined with a mixture of 15% aqueous pyridine (30 ml), tetrahydrofuran (20 ml) and cupric sulfate pentahydrate (2.2 g), followed by refluxing for 2 hours. After cooling, water and ethyl acetate were added to the reaction mixture. The organic layer was separated from the water layer, washed with dilute hydrochloric acid, dried and concentrated. The residue was crystallized from ether to give 2-[3-isopropyl6-fluoro-2(3H)-benzothiazolon-5-yl]-4, 5, 6, 7-tetrahydro-2H-benzotriazole-1-oxide (Compound No. 3; 0.7 g). m.p., 92.5° C.

reactant | 6-Fluoro-3-(1-methylethyl)-2(3H)-benzothiazolon5-ylhydrazine | 1.11 g | FC1=CC2=C(N(C(S2)=O)C(C)C)C=C1NN | C10H12FN3OS
reactant | 4-(3-hydroxyimino-1-cyclohexen2-yl)morpholine | 0.90 g | ON=C1C(=CCCC1)N1CCOCC1 | C10H16N2O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | Water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[3-isopropyl6-fluoro-2(3H)-benzothiazolon-5-yl]-4, 5, 6, 7-tetrahydro-2H-benzotriazole-1-oxide | 0.7 g | C(C)(C)N1C(SC2=C1C=C(C(=C2)F)N2N=C1C(=[N+]2[O-])CCCC1)=O | C16H17FN4O2S
